US07384963B2
N-(4-Hydroxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-hydroxybenzylamine using method H. NMR; δH [2H6]—DMSO 9.27,(1H, s), 9.02,(1H, t), 7.98,(2H, d), 7.89,(1H, dd), 7.76,(1H, d), 7.54,,(1H, d), 7.51,(2H, d), 7.13,(2H, d), 6.71,(2H, d), 4.39,(2H, d), 2.56,(3H, s), 2.31,(3H, s), LCMS; retention time 3.03 min, MH+ 400.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-hydroxybenzylamine | OC1=CC=C(CN)C=C1 | C7H9NO
product | N-(4-Hydroxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | OC1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C24H21N3O3
